US07691882B2
4-(6-Fluoro-pyridin-2-yloxymethyl)-benzonitrile
To an N,N-dimethylformamide (50 mL) solution of 2,6-difluoropyridine (5 g, 43.4 mmol) and 4-(hydroxymethyl)benzonitrile (8.67 g, 65.1 mmol) was added sodium hydride (2.56 g, 65.1 mmol, 60% in oil) at room temperature. This mixture was stirred for 4 hours at 70° C. This mixture was partitioned into ethyl acetate and water. The organic layer was separated, washed with water, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by NH-silica gel column chromatography (heptane:ethyl acetate=10:1-4:1) to obtain the title compound (5.99 g, 61%).

reactant | 2,6-difluoropyridine | 43.4 mmol, 5 g | FC1=NC(=CC=C1)F | C5H3F2N
reactant | 4-(hydroxymethyl)benzonitrile | 65.1 mmol, 8.67 g | OCC1=CC=C(C#N)C=C1 | C8H7NO
reactant | sodium hydride | 65.1 mmol, 2.56 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 4-(6-Fluoro-pyridin-2-yloxymethyl)-benzonitrile | 5.99 g, 61% | FC1=CC=CC(=N1)OCC1=CC=C(C#N)C=C1 | C13H9FN2O
